US07022725B2
To a solution of 5-(2,4-difluorophenyl)-4-isoxazolylmethanol (2.50 g) in toluene (50 ml) was added dropwise thionyl chloride (2.11 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 4-chloromethyl-5-(2,4-difluorophenyl)isoxazole (2.20 g, yield 81%) was obtained as an oil from a fraction eluted with ethyl acetate-hexane (1:5, volume ratio). NMR (CDCl3) δ: 4.53 (2H, s), 6.95–7.15 (2H, m), 7.6–7.75 (1H, m), 8.43 (1H, s).

reactant | 5-(2,4-difluorophenyl)-4-isoxazolylmethanol | 2.50 g | FC1=C(C=CC(=C1)F)C1=C(C=NO1)CO | C10H7F2NO2
reactant | thionyl chloride | 2.11 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-5-(2,4-difluorophenyl)isoxazole | 2.20 g, yield 81% | ClCC=1C=NOC1C1=C(C=C(C=C1)F)F | C10H6ClF2NO
